US08053574B2
Step 1: (2H-Tetrazol-5-ylmethyl)-carbamic acid tert-butyl ester
C-(2H-tetrazol-5-yl)-methylamine (1 g, 10.1 mmol), di-tert-butyl dicarbonate (2.2 g, 10.1 mmol), 4M NaOH (2.5 ml) and H2O (20 ml) are mixed together and stirred overnight at room temperature. The reaction mixture is acidified to pH5 with 5M HCl, resulting in a precipitate which is collected by filtration and dried under vacuum to afford the title compound [MH+200.05].

reactant | C-(2H-tetrazol-5-yl)-methylamine | 10.1 mmol, 1 g | N=1NN=NC1CN | C2H5N5
reactant | di-tert-butyl dicarbonate | 10.1 mmol, 2.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 4M, 2.5 ml | [OH-].[Na+]
reactant | HCl | 5M | Cl | ClH
solvent | H2O | 20 ml | O | H2O
product | (2H-Tetrazol-5-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC=1N=NNN1)=O | C7H13N5O2
